US04220647
p-Chloroanilinoacetaldehyde diethyl acetal (486 mg) and 3,4-dihydroxyphenethylamine hydrochloride (378 mg) were added to a mixture of n-butyl alcohol (4 ml) and water (0.4 ml) and then the mixture was refluxed for 3.5 hours. The above-mentioned acetal (0.24 g) was further added thereto and the resultant mixture was refluxed for 3 hours. The reaction mixture was treated in a conventional manner to give 1-(p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride. This product was identified by thin-layer chromatography on silica gel [Developing solvent: (n-butyl alcohol:acetic acid:water=8:1:1)] with an authentic sample, mp 91° to 93° C., which was obtained by reacting 1-(N-benzyloxycarbonyl-p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride obtained in Example 1(D) with conc. hydrochloric acid and acetic acid.

reactant | p-Chloroanilinoacetaldehyde diethyl acetal | 486 mg | C(C)OC(CNC1=CC=C(C=C1)Cl)OCC | C12H18ClNO2
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 378 mg | Cl.OC=1C=C(CCN)C=CC1O
reactant | n-butyl alcohol | 4 ml | C(CCC)O | C4H10O
solvent | water | 0.4 ml | O | H2O
product | 1-(p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC1=CC=C(NCC2NCCC3=CC(=C(C=C23)O)O)C=C1 | InChI=1S/C16H17ClN2O2.ClH/c17-11-1-3-12(4-2-11)19-9-14-13-8-16(21)15(20)7-10(13)5-6-18-14;/h1-4,7-8,14,18-21H,5-6,9H2;1H
